US08461348B2
ethyl 1-(cyanomethyl)-1H-pyrazole-4-carboxylate
To a solution of ethyl 1H-pyrazole-4-carboxylate (0.98 g, 7.0 mmol) in N,N-dimethylformamide (10 mL) was added 60% sodium hydride (0.42 g, 10.5 mmol) under ice-cooling, and the mixture was stirred at the same temperature for 20 min. Bromoacetonitrile (0.63 mL, 9.10 mmol) was added to the reaction mixture, the ice bath was removed and the mixture was stirred for 4.5 hr. The reaction mixture was diluted with water, extracted with ethyl acetate, washed successively with water and saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (carrier: silica gel, eluent: hexane-ethyl acetate) to give the title compound (1.14 g, 90%) as a colorless oil.

reactant | ethyl 1H-pyrazole-4-carboxylate | 7.0 mmol, 0.98 g | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | sodium hydride | 10.5 mmol, 0.42 g | [H-].[Na+]
reactant | Bromoacetonitrile | 9.10 mmol, 0.63 mL | BrCC#N | C2H2BrN
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | ethyl 1-(cyanomethyl)-1H-pyrazole-4-carboxylate | 1.14 g, 90% | C(#N)CN1N=CC(=C1)C(=O)OCC | C8H9N3O2
